US07846929B2
S-(−) Propylene oxide (152 μL) was added to a mixture of 500 mg of 3-mercaptophenylboronic acid and aluminum oxide (˜30 eq, neutral, activated, ˜150 mesh) in diethyl ether at room temperature. The reaction was monitored by LC/MS until complete. The reaction mixture was evaporated, and then added 1N HCl. The resulting mixture was extracted with ethyl acetate (3×50 mL). The combined organic layers were dried over MgSO4, filtered and evaporated to give 3-((S)-2-hydroxypropylthio)phenylboronic acid (414 mg, 90%). The crude product was directly used for next step reaction without purification.

reactant | Propylene oxide | 152 μL | C1C(C)O1 | C3H6O
reactant | 3-mercaptophenylboronic acid | 500 mg | SC=1C=C(C=CC1)B(O)O | C6H7BO2S
reactant | aluminum oxide | ˜30 eq | [O-2].[Al+3].[O-2].[O-2].[Al+3]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-((S)-2-hydroxypropylthio)phenylboronic acid | 414 mg, 90% | O[C@H](CSC=1C=C(C=CC1)B(O)O)C | C9H13BO3S
